US07595370B2
5 g of hexamethylcyclotrisiloxane, 3.5 g of trimethylsilyl methacrylate and 0.3 g of Amberlyst A15 resin catalyst were stirred in 2.5 ml of toluene. After 7 h at room temperature the catalyst was filtered and the solvent evaporated under reduced pressure to furnish nonamethyl-1-methacryloyloxy-tetrasiloxane.

reactant | hexamethylcyclotrisiloxane | 5 g | C[Si]1(O[Si](O[Si](O1)(C)C)(C)C)C | C6H18O3Si3
reactant | trimethylsilyl methacrylate | 3.5 g | C(C(=C)C)(=O)O[Si](C)(C)C | C7H14O2Si
reactant | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
product | nonamethyl-1-methacryloyloxy-tetrasiloxane | C[Si](O[Si](O[Si](O[Si](OC(C(=C)C)=O)(C)C)(C)C)(C)C)(C)C | C13H32O5Si4
